US08198267B2
1-Methyl-3-(2-methyl-4-nitrophenyl)tetrahydropyrimidin-2(1H)-one
16.1 g (76.1 mmol) of potassium phosphate and 0.362 g (1.90 mmol) of copper(I) iodide are initially charged, and the apparatus is baked out and then flushed with argon. 10.0 g (38.1 mmol) of 1-iodo-2-methyl-4-nitrobenzene, 6.51 g (57.0 mmol) of 1-methyltetrahydropyrimidin-2(1H)-one and 0.394 g (3.80 mmol) of N,N′-dimethylenediamine in 200 ml of dioxane are added, and the mixture is stirred at 110° C. After 19 h, after cooling, the mixture is filtered with suction through kieselguhr and then washed three times with 100 ml of ethyl acetate. The solvent is removed under reduced pressure and the residue is purified by chromatography on silica gel (2:1→1:1 cyclohexane/ethyl acetate). This affords 5.94 g (63% of theory) of the desired compound.

reactant | potassium phosphate | 76.1 mmol, 16.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-iodo-2-methyl-4-nitrobenzene | 38.1 mmol, 10.0 g | IC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6INO2
reactant | 1-methyltetrahydropyrimidin-2(1H)-one | 57.0 mmol, 6.51 g | CN1C(NCCC1)=O | C5H10N2O
reactant | N,N′-dimethylenediamine | 3.80 mmol, 0.394 g | NCCN | C2H8N2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 1.90 mmol, 0.362 g | [Cu]I
product | 1-Methyl-3-(2-methyl-4-nitrophenyl)tetrahydropyrimidin-2(1H)-one | CN1C(N(CCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C12H15N3O3
